US05840751
5,6-Dihydro-4-hydroxy-3-(3-methoxyphenylthio)-6,6-diphenyl-2H-pyran-2-one
The title compound was prepared as described in General Method 6 from 1.8 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (prepared in example AAA), 2.0 mmol of 3-methoxybenzenethiol, and 2.0 mmol of piperidine in 25 mL of dichloromethane. The product was chromatographed on silica gel, eluting first with chloroform and then with 5% methanol in chloroform (m.p. 61°-62° C.). 1H NMR (DMSO-d6) δ 3.63 (s, 3 H), 3.76 (s, 2 H), 5.64 (bd, 1 H), 6,42 (s, 1 H), 6.54 (d, 1 H), 6.74 (t, 1 H), 7.32-7.47 (m, 10 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 1.8 mmol | BrC=1C(OC(CC1O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H13BrO3
reactant | 3-methoxybenzenethiol | 2.0 mmol | COC=1C=C(C=CC1)S | C7H8OS
reactant | piperidine | 2.0 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5,6-Dihydro-4-hydroxy-3-(3-methoxyphenylthio)-6,6-diphenyl-2H-pyran-2-one | OC1=C(C(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)SC1=CC(=CC=C1)OC | C24H20O4S
